US06642389B2
In analogy to the procedures described in examples 11 a] to 11 c], 7-[2-(5-methyl-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophene-4-carbaldehyde was reacted with (S)-4-benzyl-3-methoxyacetyl-oxazolidin-2-one and nBu2BOTf to yield (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-2-methoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-propionyl]-oxazolidin-2-one (according to NMR, one of the four isomers is strongly predominating; the configuration was tentatively assigned as 2S, 3R according to Tetrahedron Asymmetry 1999, 1353). Reduction of (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-2-methoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-propionyl]-oxazolidin-2-one with triethylsilane in trifluoroacetic acid then gave (S)-4-benzyl-3-(2(S)-methoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-propionyl)-oxazolidin-2-one. The (S)-4-benzyl-3-(2(S)-methoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-propionyl)-oxazolidin-2-one was subsequently saponified with 1N NaOH in THF to yield (S)-2-methoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-propionic acid as colorless solid.

reactant | 7-[2-(5-methyl-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophene-4-carbaldehyde | CC=1C=CC=C(C1)C=1OC=C(N1)CCOC1=CC=C(C2=C1SC=C2)C=O | C21H17NO3S
reactant | (S)-4-benzyl-3-methoxyacetyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COC)=O | C13H15NO4
reactant | nBu2BOTf | B(CCCC)(CCCC)OS(=O)(=O)C(F)(F)F | C9H18BF3O3S
product | (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-2-methoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-propionyl]-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC=C(C=2SC=CC21)OCCC=2N=C(OC2C)C2=CC=CC=C2)O)OC)=O | C34H32N2O7S
